US06133303
Step 1: 3-Hydroxy-2-methylbenzoic acid
A solution of 20.6 g (0.125 mol) of methyl 3-amino-2-methylbenzoate in 150 mL of HOAc and 25 mL of conc. H2SO4 was cooled in ice and diazotized by the dropwise addition of a solution of 8.7 g (0.125 mol) of NaNO2 in 50 mL of H2O. After stirring for 15 minutes, the diazonium solution was added dropwise to a boiling solution of 200 mL of 50% H2SO4, and the refluxing continued for 15 minutes after the addition was complete. The mixture was diluted with H2O and extracted twice with Et2O. The Et2O was washed 5 times with H2O, then with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 17.98 g (94.4% yield) of the product as a tan solid, mp 137-140° C. The structure was confirmed by NMR spectroscopy.

reactant | methyl 3-amino-2-methylbenzoate | 0.125 mol, 20.6 g | NC=1C(=C(C(=O)OC)C=CC1)C | C9H11NO2
reactant | NaNO2 | 0.125 mol, 8.7 g | N(=O)[O-].[Na+]
solvent | HOAc | 150 mL | CC(=O)O | C2H4O2
solvent | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 50 mL | O | H2O
solvent | H2SO4 | 200 mL | OS(=O)(=O)O | H2O4S
product | 3-Hydroxy-2-methylbenzoic acid | 17.98 g, 94.4% yield | OC=1C(=C(C(=O)O)C=CC1)C | C8H8O3
